US08440666B2
2-(4,5-Dibromo-6-oxopyridazin-1(6H)-yl)acetic Acid
Ethyl 2-(4,5-dibromo-6-oxopyridazin-1(6H)-yl)acetate (6.01 g, 17.7 mmol) in 1,4-dioxane (60 mL) was stirred with 1 M aqueous sodium hydroxide (53.1 mL, 53.1 mmol) at room temperature for 1 hour. After completion of the reaction, the reaction solution was mixed with ethyl acetate and extracted with 1 M aqueous sodium hydroxide twice. The resulting aqueous layer was acidified to pH 1 with 1 M hydrochloric acid and extracted with ethyl acetate twice. The resulting organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated under reduced pressure to give the desired product (5.30 g, 88% yield).

reactant | Ethyl 2-(4,5-dibromo-6-oxopyridazin-1(6H)-yl)acetate | 17.7 mmol, 6.01 g | BrC=1C=NN(C(C1Br)=O)CC(=O)OCC | C8H8Br2N2O3
reactant | sodium hydroxide | 53.1 mmol, 1 M, 53.1 mL | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | 2-(4,5-Dibromo-6-oxopyridazin-1(6H)-yl)acetic Acid | 5.30 g, 88% yield | BrC=1C=NN(C(C1Br)=O)CC(=O)O | C6H4Br2N2O3
